M7 (net30 LOGICF1 IB2 VSS) nmos4
M4 (net26 LOGICF2 IB2 VSS) nmos4
M5 (VOUT1 net22 net016 VSS) nmos4
M2 (net22 LOGICG2 IB3 VSS) nmos4
M3 (net012 LOGICG1 IB3 VSS) nmos4
M1 (net016 net26 IB1 VSS) nmos4
M0 (VOUT2 net30 IB1 VSS) nmos4
M6 (VOUT2 net012 net016 VSS) nmos4
R6 (VDD net27) resistor
R5 (net27 net26) resistor
R4 (net27 net30) resistor
R3 (VDD net012) resistor
R2 (VDD net22) resistor
R0 (VDD VOUT1) resistor
R1 (VDD VOUT2) resistor