M5 (net13 LOGICA1 net17 VSS) nmos4
M4 (net13 LOGICB1 net17 VSS) nmos4
M7 (net16 VB1 net17 VSS) nmos4
M0 (net17 VCLK1 IB1 VSS) nmos4
M1 (net029 VCLK2 IB1 VSS) nmos4
M2 (net16 net13 net029 VSS) nmos4
M3 (net13 net16 net029 VSS) nmos4
R4 (VDD net16) resistor
R5 (VDD net13) resistor