R3 (VDD net19) resistor
R2 (VDD net011) resistor
R1 (VDD net6) resistor
R0 (VDD net1) resistor
M11 (net17 VCLK2 IB2 VSS) nmos4
M10 (net11 VCLK1 IB2 VSS) nmos4
M9 (net25 net011 net17 VSS) nmos4
M8 (net011 net25 net17 VSS) nmos4
M7 (net011 net6 net11 VSS) nmos4
M6 (net19 net1 net11 VSS) nmos4
M5 (net8 VCLK2 IB1 VSS) nmos4
M4 (net2 VCLK1 IB1 VSS) nmos4
M3 (net21 net6 net8 VSS) nmos4
M2 (net6 net21 net8 VSS) nmos4
M1 (net6 net19 net2 VSS) nmos4
M0 (net1 net011 net2 VSS) nmos4
C3 (VSS net25) capacitor
C2 (VSS net011) capacitor
C1 (VSS net21) capacitor
C0 (VSS net6) capacitor