R0 (VDD net51) resistor
R3 (VDD net54) resistor
R2 (VDD net015) resistor
R1 (VDD net46) resistor
M7 (net54 net015 IB4 VSS) nmos4
M6 (net015 net54 IB4 VSS) nmos4
M5 (net015 net46 IB3 VSS) nmos4
M4 (net54 net51 IB3 VSS) nmos4
M3 (net51 net46 IB2 VSS) nmos4
M2 (net46 net51 IB2 VSS) nmos4
M1 (net46 net54 IB1 VSS) nmos4
M0 (net51 net015 IB1 VSS) nmos4