M6 (VDD VDD VSS VSS) nmos4
M5 (net24 net017 VSS VSS) nmos4
M4 (net23 net01 VSS VSS) nmos4
M3 (net19 net20 net24 VSS) nmos4
M2 (net20 net19 net24 VSS) nmos4
M1 (net20 LOGICD2 net23 VSS) nmos4
M0 (net19 LOGICD1 net23 VSS) nmos4
R3 (net01 VDD) resistor
R2 (net017 VDD) resistor
R0 (VDD net19) resistor
R1 (VDD net20) resistor
C1 (net017 VCLK2) capacitor
C0 (VCLK1 net01) capacitor