M7 (VOUT2 VOUT1 IB1 VSS) nmos4
M6 (VOUT1 VOUT2 IB1 VSS) nmos4
M5 (VOUT2 net3 VSS VSS) nmos4
M4 (VOUT1 net5 VSS VSS) nmos4
M3 (net5 VLO2 net2 VSS) nmos4
M2 (net3 VLO1 net2 VSS) nmos4
M1 (net3 VLO2 net1 VSS) nmos4
M0 (net5 VLO1 net1 VSS) nmos4
L1 (VDD VOUT2) inductor
L0 (VDD VOUT1) inductor
R1 (net3 VB1) resistor
R0 (net5 VB1) resistor
C1 (VOUT2 net2) capacitor
C0 (VOUT1 net1) capacitor