R6 (VDD net032) resistor
R7 (VDD net049) resistor
R3 (VDD LOGICQ1) resistor
R2 (VDD LOGICQ1) resistor
R1 (VDD net18) resistor
R0 (VDD net028) resistor
M23 (net033 VCLK2 IB3 VSS) nmos4
M22 (net049 LOGICD1 net029 VSS) nmos4
M18 (net029 VCLK1 IB3 VSS) nmos4
M19 (net049 net032 net033 VSS) nmos4
M20 (net032 net049 net033 VSS) nmos4
M21 (net032 LOGICD1 net029 VSS) nmos4
M11 (net27 VCLK1 IB2 VSS) nmos4
M10 (net23 VCLK2 IB2 VSS) nmos4
M9 (LOGICQ1 net032 net27 VSS) nmos4
M8 (LOGICQ1 net028 net23 VSS) nmos4
M7 (LOGICQ1 net049 net27 VSS) nmos4
M6 (LOGICQ1 net18 net23 VSS) nmos4
M5 (net19 VCLK2 IB1 VSS) nmos4
M4 (net15 VCLK1 IB1 VSS) nmos4
M3 (net028 net18 net19 VSS) nmos4
M2 (net18 net028 net19 VSS) nmos4
M1 (net18 LOGICD1 net15 VSS) nmos4
M0 (net028 LOGICD1 net15 VSS) nmos4