M1 (net13 net8 VSS VSS) nmos4
M0 (net13 net7 VSS VSS) nmos4
C2 (VIN1 net7) capacitor
C1 (VIN1 net8) capacitor
C0 (net13 net18) capacitor
R2 (net7 VB1) resistor
R1 (net8 VSS) resistor
R0 (net18 VSS) resistor
L0 (VDD net13) inductor