L5 (net27 VOUT2) inductor
L4 (net11 VOUT1) inductor
L3 (VDD net17) inductor
L2 (VDD net6) inductor
L1 (VDD net27) inductor
L0 (VDD net11) inductor
M7 (net17 net6 VSS VSS) nmos4
M6 (net17 VIN2 VSS VSS) nmos4
M5 (net6 net17 VSS VSS) nmos4
M4 (net6 VIN1 VSS VSS) nmos4
M3 (net27 net11 VSS VSS) nmos4
M2 (net27 net17 VIN2 VSS) nmos4
M1 (net11 net27 VSS VSS) nmos4
M0 (net11 net6 VSS VSS) nmos4
C0 (VOUT1 VOUT2) capacitor