M3 (VOUT1 net18 IB1 IB1) pmos4
M2 (VOUT2 net12 IB1 IB1) pmos4
M0 (net12 VLO1 VIN1 VSS) nmos4
M1 (net18 VLO2 VIN1 VSS) nmos4
M6 (net12 VCONT3 net18 VSS) nmos4
M5 (net12 VCONT2 net18 VSS) nmos4
M4 (net12 VCONT1 net18 VSS) nmos4
R1 (VOUT1 VSS) resistor
R0 (VOUT2 VSS) resistor