M4 (net20 VCLK1 net28 VSS) nmos4
M5 (net28 LOGICA1 net27 VSS) nmos4
M6 (net27 LOGICB1 VSS VSS) nmos4
M7 (net15 VCLK1 VSS VSS) nmos4
M8 (LOGICQ2 net15 VSS VSS) nmos4
M0 (net20 LOGICB1 VDD VDD) pmos4
M1 (net20 LOGICA1 VDD VDD) pmos4
M2 (net15 net20 VDD VDD) pmos4
M3 (LOGICQ2 VCLK1 VDD VDD) pmos4