R0 (IB1 net8) resistor
M4 (net8 net8 VSS VSS) nmos4
M3 (net16 net8 VSS VSS) nmos4
M2 (net15 net8 VSS VSS) nmos4
M1 (IOUT2 IB1 net15 VSS) nmos4
M0 (IOUT1 IB1 net16 VSS) nmos4