Q0 (VOUT1 VIN1 net03 0) npn
Q1 (VOUT2 VIN2 net04 0) npn
R4 (net03 net04) resistor
R2 (VDD VOUT2) resistor
R1 (VDD VOUT1) resistor
R0 (net03 VSS) resistor
R3 (net04 VSS) resistor