Q5 (net1 net1 VSS 0) npn
Q4 (VOUT1 net1 VSS 0) npn
Q3 (VSS VSS net6 0) pnp
Q2 (VOUT1 net6 IB1 0) pnp
Q1 (VSS VIN1 net12 0) pnp
Q0 (net1 net12 IB1 0) pnp