Q1 (net5 net5 VOUT1 0) npn
Q0 (net5 net3 VSS 0) npn
R4 (VOUT1 net2) resistor
R3 (IB1 net5) resistor
R2 (net2 VSS) resistor
R1 (net3 net2) resistor
R0 (IB1 net3) resistor