M6 (VOUT1 net5 VSS VSS) nmos4
M5 (net5 IIN2 VSS VSS) nmos4
M4 (IIN2 IIN1 VSS VSS) nmos4
M3 (IIN1 IIN1 VSS VSS) nmos4
M2 (VOUT1 net5 VDD VDD) pmos4
M1 (net5 IB1 VDD VDD) pmos4
M0 (IB1 IB1 VDD VDD) pmos4