Q11 (net8 net15 net07 0) npn
Q10 (net07 net07 VSS 0) npn
Q9 (net15 net07 VSS 0) npn
Q8 (net14 net02 VSS 0) npn
Q7 (net02 net02 VSS 0) npn
Q6 (VOUT1 net14 net02 0) npn
Q5 (net8 net8 net9 0) pnp
Q4 (VOUT1 net8 net4 0) pnp
Q3 (net4 net4 VDD 0) pnp
Q2 (net14 VIN1 IB1 0) pnp
Q1 (net15 VIN2 IB1 0) pnp
Q0 (net9 net4 VDD 0) pnp
R0 (VOUT1 VSS) resistor