Q16 (net42 net42 net15 0) npn
Q15 (net19 net19 VSS 0) npn
Q14 (net15 net19 VSS 0) npn
Q13 (VOUT1 net42 net19 0) npn
Q12 (VDD IB1 net34 0) npn
Q11 (net29 VIN2 IB2 0) npn
Q10 (IB1 net34 VIN2 0) npn
Q8 (IB1 net34 VIN1 0) npn
Q9 (net35 VIN1 IB2 0) npn
Q0 (net13 net3 VDD 0) pnp
Q1 (net35 net35 net13 0) pnp
Q2 (net3 net3 VDD 0) pnp
Q3 (VOUT1 net35 net3 0) pnp
Q4 (net42 net29 net6 0) pnp
Q5 (net6 net6 VDD 0) pnp
Q6 (net29 net29 net12 0) pnp
Q7 (net12 net6 VDD 0) pnp
R4 (VIN2 VSS) resistor
R3 (VIN1 VSS) resistor
R2 (VOUT1 VSS) resistor
R1 (VIN2 VSS) resistor
R0 (VIN1 VB1) resistor