R0 (VDD VOUT1) resistor
R1 (VDD VOUT2) resistor
M0 (VOUT1 VIN3 net5 VSS) nmos4
M1 (net5 VIN1 IB1 VSS) nmos4
M2 (VOUT1 VIN4 net12 VSS) nmos4
M3 (VOUT2 VIN4 net5 VSS) nmos4
M6 (net12 VIN2 IB1 VSS) nmos4
M5 (VOUT2 VIN4 net12 VSS) nmos4
C0 (VOUT2 VOUT1) capacitor