M28 (VOUT2 VOUT1 VSS VSS) nmos4
M27 (VOUT1 IB1 VSS VSS) nmos4
M26 (net16 IB1 VSS VSS) nmos4
M25 (net13 net125 net16 VSS) nmos4
M24 (net79 net105 net16 VSS) nmos4
M23 (VDD VOUT1 net28 VSS) nmos4
M22 (net105 net120 net28 VSS) nmos4
M21 (net29 net35 VSS VSS) nmos4
M20 (net28 net35 net29 VSS) nmos4
M19 (net44 net35 VSS VSS) nmos4
M18 (net35 net35 net44 VSS) nmos4
M17 (VDD net47 net59 VSS) nmos4
M16 (IB1 IB1 VSS VSS) nmos4
M15 (net64 IB1 VSS VSS) nmos4
M14 (net47 net59 net64 VSS) nmos4
M13 (net87 VIN2 net64 VSS) nmos4
M12 (VOUT2 VOUT1 VDD VDD) pmos4
M11 (net69 net13 VDD VDD) pmos4
M10 (VOUT1 net13 VDD VDD) pmos4
M9 (net13 net79 VDD VDD) pmos4
M8 (net79 net79 VDD VDD) pmos4
M7 (net47 net87 VDD VDD) pmos4
M6 (net87 net87 VDD VDD) pmos4
M5 (VDD VDD net96 VDD) pmos4
M4 (net96 VDD VDD VDD) pmos4
M3 (net35 VDD net104 VDD) pmos4
M2 (net105 VDD net108 VDD) pmos4
M1 (net108 VDD VDD VDD) pmos4
M0 (net104 VDD VDD VDD) pmos4
R6 (net59 VSS) resistor
R5 (VDD net120) resistor
R4 (net120 VIN1) resistor
R3 (VIN1 VSS) resistor
R2 (net125 VSS) resistor
R1 (VDD net125) resistor
R0 (net69 net125) resistor