Q13 (VOUT1 net23 VSS 0) npn
Q12 (net23 net23 VSS 0) npn
Q11 (VOUT1 net14 net23 0) npn
Q10 (net4 net8 IB1 0) npn
Q9 (net7 VIN1 IB1 0) npn
Q8 (VDD net15 VOUT1 0) npn
Q7 (net15 net15 VOUT1 0) npn
Q6 (VDD net13 net15 0) npn
Q5 (net13 net9 net12 0) npn
Q4 (net14 IB2 VOUT1 0) pnp
Q3 (IB2 IB2 net12 0) pnp
Q2 (net13 net7 VDD 0) pnp
Q1 (net7 net4 VDD 0) pnp
Q0 (net4 net4 VDD 0) pnp
R5 (net14 net23) resistor
R4 (VOUT1 VSS) resistor
R3 (net8 VOUT1) resistor
R2 (net9 net12) resistor
R1 (net13 net9) resistor
R0 (net8 VSS) resistor
C0 (net7 IB2) capacitor