R2 (VDD VOUT1) resistor
R1 (VDD VOUT2) resistor
R0 (net028 IB3) resistor
R3 (net029 IB4) resistor
R4 (IB4 IB3) resistor
R5 (IB2 IB1) resistor
R6 (net031 IB1) resistor
R7 (net030 IB2) resistor
R8 (VDD net03) resistor
Q7 (net012 VSS net030 VSS) nmos4
Q3 (VOUT1 net07 net027 VSS) nmos4
Q5 (net027 VSS net029 VSS) nmos4
Q4 (VOUT2 net012 net027 VSS) nmos4
Q1 (VOUT1 net012 net025 VSS) nmos4
Q0 (net025 VIN2 net028 VSS) nmos4
Q2 (VOUT2 net07 net025 VSS) nmos4
Q9 (net03 net03 net07 VSS) nmos4
Q6 (net07 VIN1 net031 VSS) nmos4
Q8 (net03 net03 net012 VSS) nmos4