C0 (IB2 net038) capacitor
M8 (VDD IB2 VOUT1 VSS) nmos4
M4 (IB2 net038 VSS VSS) nmos4
M3 (net038 net036 VSS VSS) nmos4
M2 (net036 net036 VSS VSS) nmos4
M1 (net036 net012 IB1 VDD) pmos4
M0 (net038 VSS IB1 VDD) pmos4
R1 (net012 VOUT1) resistor
R0 (net012 VIN1) resistor