M3 (net21 net26 net24 VSS) nmos4
M2 (net6 net26 net018 VSS) nmos4
M7 (VOUT1 net6 net20 net19) pmos4
M6 (net20 net8 VDD net19) pmos4
M5 (net22 net8 VDD net14) pmos4
M4 (net23 net8 VDD net18) pmos4
M0 (net8 net6 net23 net18) pmos4
M1 (net21 net6 net22 net14) pmos4
Q1 (VSS VSS net25 0) pnp
Q0 (VSS VSS net24 0) pnp
R2 (net018 net25) resistor
R1 (VOUT1 VSS) resistor
R0 (net8 net6) resistor
D0 (VSS net6) diode