R0 (VDD VOUT1) resistor
R1 (VDD VOUT2) resistor
M0 (VOUT1 VIN1 IB1 VSS) nmos4
M5 (VOUT2 VIN2 IB1 VSS) nmos4
C1 (VDD VOUT2) capacitor
C0 (VDD VOUT1) capacitor