R3 (net08 VIN2) resistor
R2 (VIN1 net07) resistor
R1 (VDD VOUT2) resistor
R0 (VDD VOUT1) resistor
M2 (net09 net08 IB1 VSS) nmos4
M1 (net010 net07 IB1 VSS) nmos4
M5 (VOUT2 VB2 net09 VSS) nmos4
M0 (VOUT1 VB1 net010 VSS) nmos4
C0 (VSS VOUT1) capacitor
C1 (VSS VOUT2) capacitor