M17 (VOUT1 IB1 VDD VDD) pmos4
M14 (net014 VIN1 net97 net023) pmos4
M13 (net016 VIN2 net97 net023) pmos4
M12 (net97 IB1 VDD VDD) pmos4
M10 (IB1 IB1 VDD VDD) pmos4
M18 (VOUT1 net016 VSS VSS) nmos4
M16 (net016 net014 VSS VSS) nmos4
M15 (net014 net014 VSS VSS) nmos4
C0 (net022 VOUT1) capacitor
R0 (net016 net022) resistor