M5 (IB2 net021 VSS VSS) nmos4
M3 (net021 IIN1 VSS VSS) nmos4
M2 (IIN1 IB2 net021 VSS) nmos4
M4 (IB1 net027 VSS VSS) nmos4
M0 (net027 IIN1 VSS VSS) nmos4
M1 (IOUT1 IB1 net027 VSS) nmos4