C0 (IB3 net16) capacitor
C1 (net16 IB2) capacitor
R0 (IB3 net16) resistor
R1 (net16 IB2) resistor
M0 (VDD VIN1 IB2 VSS) nmos4
M1 (VDD VIN2 IB3 VSS) nmos4
M2 (VOUT1 VOUT1 VSS VSS) nmos4
M3 (net13 net13 VSS VSS) nmos4
M4 (VOUT1 VREF1 IB1 VDD) pmos4
M5 (net13 net16 IB1 VDD) pmos4