M12 (VOUT1 net041 VDD VDD) pmos4
M11 (VSS VIN1 net036 VDD) pmos4
M10 (net036 net023 VDD VDD) pmos4
M9 (net037 net023 VDD VDD) pmos4
M8 (net041 net041 VDD VDD) pmos4
M7 (net023 net041 net037 VDD) pmos4
M14 (VOUT1 IB1 net035 VSS) nmos4
M13 (net035 IB2 VSS VSS) nmos4
M6 (net023 IB1 net038 VSS) nmos4
M5 (net038 IB2 VSS VSS) nmos4
M4 (IB1 IB1 VSS VSS) nmos4
M0 (IB2 IB1 net021 VSS) nmos4
M1 (net021 IB2 VSS VSS) nmos4
M2 (net041 IB1 net022 VSS) nmos4
M3 (net022 IB2 VSS VSS) nmos4
C0 (VOUT1 VSS) capacitor