Q1 (net7 net6 VDD 0) pnp
Q0 (net6 net6 VDD 0) pnp
Q4 (net7 net14 net4 0) npn
Q3 (net6 net18 net17 0) npn
Q2 (VDD net7 VOUT1 0) npn
R4 (net18 net14) resistor
R3 (net4 VSS) resistor
R2 (net17 net4) resistor
R1 (net14 VSS) resistor
R0 (VOUT1 net14) resistor