Q21 (net34 VSS VSS 0) npn
Q20 (net034 VSS VSS 0) npn
Q19 (net15 net18 VSS 0) npn
Q18 (net19 net15 net17 0) npn
Q17 (net19 net17 net18 0) npn
Q15 (net23 net11 net28 0) npn
Q14 (net11 net11 VSS 0) npn
Q11 (net15 net4 VB2 0) npn
Q10 (net3 net4 VB1 0) npn
Q9 (VDD net3 net4 0) npn
Q6 (net9 net33 net29 0) npn
Q5 (net9 net34 net30 0) npn
Q4 (net24 net16 net19 0) npn
Q2 (net24 net22 VREF1 0) npn
Q1 (VDD net24 net22 0) npn
Q16 (net14 net14 VDD 0) pnp
Q13 (net9 net9 VDD 0) pnp
Q12 (net23 net9 VDD 0) pnp
Q8 (net15 net23 net29 0) pnp
Q7 (net3 net23 net30 0) pnp
Q3 (net24 net14 VDD 0) pnp
Q0 (VSS net19 net27 0) pnp
R16 (VREF1 net34) resistor
R15 (VREF1 net33) resistor
R14 (net33 net034) resistor
R13 (net17 VSS) resistor
R12 (net18 VSS) resistor
R11 (net14 net11) resistor
R10 (net28 VSS) resistor
R9 (net4 VSS) resistor
R8 (VB2 VSS) resistor
R7 (VB1 VSS) resistor
R6 (net24 net16) resistor
R5 (net19 net16) resistor
R4 (VREF1 net27) resistor
R3 (net22 VREF1) resistor
C0 (net24 net15) capacitor