Q0 (VSS net040 net056 0) pnp
Q3 (net049 net035 VDD 0) pnp
Q7 (net026 net048 net053 0) pnp
Q8 (net036 net048 net054 0) pnp
Q12 (net048 net030 VDD 0) pnp
Q13 (net030 net030 VDD 0) pnp
Q16 (net035 net035 VDD 0) pnp
Q23 (VDD VREF1 net052 0) npn
Q22 (VDD VREF1 net024 0) npn
Q1 (VDD net049 net043 0) npn
Q2 (net049 net043 VREF1 0) npn
Q4 (net049 net037 net040 0) npn
Q5 (net030 net024 net053 0) npn
Q6 (net030 net025 net054 0) npn
Q9 (VDD net026 net027 0) npn
Q10 (net026 net027 VB1 0) npn
Q11 (net036 net027 VB2 0) npn
Q14 (net032 net032 VSS 0) npn
Q15 (net048 net032 net055 0) npn
Q17 (net040 net038 net039 0) npn
Q18 (net040 net036 net038 0) npn
Q19 (net036 net039 VSS 0) npn
R2 (net052 net025) resistor
R1 (net024 VSS) resistor
R0 (net025 VSS) resistor
R3 (net043 VREF1) resistor
R4 (VREF1 net056) resistor
R5 (net040 net037) resistor
R6 (net049 net037) resistor
R7 (VB1 VSS) resistor
R8 (VB2 VSS) resistor
R9 (net027 VSS) resistor
R10 (net055 VSS) resistor
R11 (net035 net032) resistor
R12 (net039 VSS) resistor
R13 (net038 VSS) resistor
C0 (net049 net036) capacitor