M1 (net13 VIN1 IB1 VDD) pmos4
M0 (net9 VIN2 IB1 VDD) pmos4
M5 (net18 VCONT1 net13 VSS) nmos4
M4 (VOUT1 net13 VSS VSS) nmos4
M3 (net13 net9 VSS VSS) nmos4
M2 (net9 net9 VSS VSS) nmos4
C0 (VOUT1 net18) capacitor
R0 (VDD VOUT1) resistor