M11 (VSS VCONT1 net8 VDD) pmos4
M10 (net5 VCONT1 VSS VDD) pmos4
M9 (net3 net36 net15 VDD) pmos4
M8 (net36 net3 net21 VDD) pmos4
M7 (net21 net25 net8 VDD) pmos4
M6 (net15 net25 net5 VDD) pmos4
M4 (net26 VCONT2 net29 VDD) pmos4
M5 (net26 VCONT2 VSS VSS) nmos4
M3 (net3 net36 VSS VSS) nmos4
M2 (net36 VCONT2 VSS VSS) nmos4
M1 (net36 net3 VSS VSS) nmos4
M0 (net3 VCONT2 VSS VSS) nmos4
C2 (net26 VSS) capacitor
C1 (VIN2 net8) capacitor
C0 (net5 VIN1) capacitor
Q1 (net5 net8 net29 0) npn
Q0 (net8 net5 net29 0) npn
I6 (net3 VOUT1 VDD VSS) INVERTER
I5 (net36 VOUT2 VDD VSS) INVERTER
I4 (net26 net25 VDD VSS) INVERTER