M2 (VDD VCONT1 net3 VDD) pmos4
M3 (VIN1 VCONT2 net3 VDD) pmos4
M4 (VDD VCONT1 net6 VDD) pmos4
M5 (VIN2 VCONT2 net6 VDD) pmos4
M1 (VSS net6 IB3 VSS) nmos4
M0 (VSS net3 IB1 VSS) nmos4
R0 (VSS net34) resistor
R1 (VSS net26) resistor
Q3 (net26 IB3 IB2 0) npn
Q2 (VSS net26 net29 0) npn
Q0 (net34 IB1 IB2 0) npn
Q1 (VSS net34 net32 0) npn
D1 (net29 VDD) diode
D0 (net32 VDD) diode