R2 (net05 VSS) resistor
R0 (VDD VOUT1) resistor
R1 (VDD VOUT2) resistor
Q2 (net5 VLATCH1 net4 0) npn
Q1 (net4 VIN1 net05 0) npn
Q3 (VOUT1 VOUT2 net5 0) npn
Q0 (VOUT1 VTRACK1 net4 0) npn
Q4 (VOUT2 VTRACK1 net9 0) npn
Q5 (net9 VIN2 net05 0) npn
Q6 (net5 VLATCH1 net9 0) npn
Q7 (VOUT2 VOUT1 net5 0) npn