R5 (net07 VSS) resistor
R1 (net5 net6) resistor
R0 (net01 net8) resistor
R2 (net5 net01) resistor
R3 (VDD VOUT1) resistor
R4 (VDD VOUT2) resistor
Q7 (net019 VTRACK2 IB1 0) npn
Q6 (net8 net6 net019 0) npn
Q5 (net6 net8 net019 0) npn
Q2 (net6 VIN2 net07 0) npn
Q1 (VOUT1 VB1 net01 0) npn
Q3 (VOUT2 VB1 net5 0) npn
Q0 (net8 VIN1 net07 0) npn
Q4 (net07 VTRACK1 IB1 0) npn