M2 (VIN1 VCLK2 net014 VSS) nmos4
M0 (VIN1 VCLK1 net014 VSS) nmos4
M1 (VDD net014 VOUT1 net02) nmos4
C0 (net014 net02) capacitor
R0 (VOUT1 net02) resistor